US04016186
In pyridine (10ml) 1.2 g (5 mmol) of 1-(p-ethoxycarbonyl-phenoxy)-butan- 2-ol was dissolved and to this solution was gradually added 0.6 g (5 mmol) of pivaloyl chloride cooling in an ice bath. The mixture was stirred at room temperature for 3 hours after the addition was completed. During the course of the reaction pyridine hydrochloride precipitated. The reaction mixture was then poured in ice water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated to afford 1.6g of 1-(p-ethoxycarbonyl-phenoxy)-butan-2-ol pivalate (compound No. 1) in a yield of 89% as a light yellow viscous oily substance.

reactant | pyridine | 5 mmol, 10ml, 1.2 g | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 5 mmol, 0.6 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 1-(p-ethoxycarbonyl-phenoxy)-butan- 2-ol | C(C)OC(=O)C1=CC=C(OCC(CC)O)C=C1 | C13H18O4
product | 1-(p-ethoxycarbonyl-phenoxy)-butan-2-ol pivalate | 1.6g, yield of 89% | C(C(C)(C)C)(=O)OC(COC1=CC=C(C=C1)C(=O)OCC)CC | C18H26O5
